US08304436B2
D1. Methyl 3-(3,4-dimethoxyphenyl)-2,2-dimethyl-3-oxopropanoate
124 ml of diisopropylamine is dissolved in 500 ml of THF under a blanket of dry nitrogen and cooled to 0° C. and 550 ml n-BuLi (1.6M in hexane) is added dropwise. Next, the mixture is cooled to minus 40° C., using an acetone/N2 bath, and 100 ml methyl 2-methylproponate is added. The resulting mixture is stirred for an additional 15 min at minus 40° C., after which 160.5 g of 3,4-dimethoxybenzoyl chloride dissolved in 750 ml of THF is added dropwise in 60 min during which the temperature is kept below −40° C. The cooling bath is removed and stirring is continued for 60 min at RT. 150 ml of 4M hydrochloric acid is added and the THF layer is separated and washed with 100 ml of water, 200 ml 1M of sodium carbonate and 100 ml of brine, dried over MgSO4 and concentrated in vacuo.

reactant | diisopropylamine | 124 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6M, 550 ml | [Li]CCCC
reactant | methyl 2-methylproponate | 100 ml | CC(C(=O)OC)C | C5H10O2
reactant | 3,4-dimethoxybenzoyl chloride | 160.5 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 750 ml | C1CCOC1 | C4H8O
product | Methyl 3-(3,4-dimethoxyphenyl)-2,2-dimethyl-3-oxopropanoate | COC=1C=C(C=CC1OC)C(C(C(=O)OC)(C)C)=O | C14H18O5
